US09212182B2
A flask was charged with (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-chloro-2-methoxyphenyl)amino)phenyl)acrylate (73.2 g, 137 mmol) and MeOH (687 ml) to give a yellow suspension. Sodium methoxide (25 wt % in MeOH) (15.01 ml, 54.9 mmol) was added and a reflux condenser was attached. The flask was lowered into a 70° C. heating bath and stirred at 70° C. for 18 h. The mixture was cooled to rt and poured through a 3 inch silica plug to remove black particulates. The product that was crashed out on the silica plug was washed through the plug with DCM. The mother liquor was concentrated to half its volume, then IPA (500 mL) was added and the solution concentrated again. An additional 500 mL of IPA was added and a tan solid precipitated. The tan solid was collected by vacuum filtration to give 6-(benzylthio)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one (50.34 g, 103 mmol, 75% yield) as a dark tan powdery solid. m/z (ESI) 486.0 (M+H)+.

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-chloro-2-methoxyphenyl)amino)phenyl)acrylate | 137 mmol, 73.2 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)Cl)Br)OC | C25H23BrClNO3S
reactant | Sodium methoxide | 54.9 mmol, 15.01 ml | C[O-].[Na+]
solvent | MeOH | 687 ml | CO | CH4O
product | 6-(benzylthio)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one | 103 mmol, 50.34 g, 75% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)Cl)Br)OC)=O | C23H17BrClNO2S
